US08492405B2
To a solution of ethyl 1-benzyl-4-[(2-thienylsulfonyl)amino]-1H-pyrrole-2-carboxylate (19.5 g) in N,N-dimethylformamide (100 mL) was slowly added sodium hydride (60%, oily, 2.2 g) at 0° C., and the mixture was stirred at room temperature for 30 min. Methyl iodide (3.4 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give a yellow oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). To a solution of the yellow oil in tetrahydrofuran (150 mL) was slowly added lithium aluminum hydride (2.2 g) in small portions. The reaction mixture was stirred at room temperature for 1 hr, and water (2.2 mL), 15% aqueous sodium hydroxide solution (2.2 mL) and water (6.6 mL) were successively added to the reaction mixture under ice-cooling. The reaction mixture was stirred for 1 hr, and the insoluble material was filtered off. The filtrate was concentrated, manganese dioxide (30 g) was added to a solution of the residue in tetrahydrofuran (200 mL), and the mixture was stirred at room temperature overnight. The manganese dioxide was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give N-(1-benzyl-5-formyl-1H-pyrrol-3-yl)-N-methylthiophene-2-sulfonamide (10.3 g, yield 57%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | ethyl 1-benzyl-4-[(2-thienylsulfonyl)amino]-1H-pyrrole-2-carboxylate | 19.5 g | C(C1=CC=CC=C1)N1C(=CC(=C1)NS(=O)(=O)C=1SC=CC1)C(=O)OCC | C18H18N2O4S2
reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | Methyl iodide | 3.4 mL | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | N-(1-benzyl-5-formyl-1H-pyrrol-3-yl)-N-methylthiophene-2-sulfonamide | 10.3 g, yield 57% | C(C1=CC=CC=C1)N1C=C(C=C1C=O)N(S(=O)(=O)C=1SC=CC1)C | C17H16N2O3S2
